US07163940B2
To a solution of (2E)-1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (3.5 g, 8.9 mmol) in tetrahydrofuran (36 mL, 0.25 M) was added N-cyclopentylguanidine hydrochloride (1.89 g, 11.6 mmol), followed by solid potassium tert-butoxide (2.6 g, 23.2 mmol) in two portions. The resultant solution was heated to reflux for 23 hours. Upon cooling to room temperature, ether was added followed by water. The organics were washed with brine, and the aqueous layer was extracted with ether. The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica to give N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine (3.7 g, 91%) as an off white solid. 1H NMR (CDCl3): δ 7.97 (d, 1H), 7.68 (d, 1H), 7.59 (dd, 2H), 7.27 (t, 1H), 7.10 (t, 2H), 6.24 (d, 1H), 5.99 (d, 1H), 5.96 (d, 1H), 5.01 (d, 1H), 4.28 (m, 1H), 3.97 (m, 1H), 2.12–1.99 (m, 4H), 1.79–1.44 (m, 12H); 13C NMR (CDCl3) δ 163.12 (d, JCF=246.6 Hz), 162.09, 161.53, 156.67, 152.15, 142.66, 141.09, 131.46 (d, JCF=8.0 Hz), 129.92 (d, JCF=3.1 Hz), 128.39, 115.45(d, JCF=21.3 Hz), 108.68, 107.13, 105.15, 90.13, 53.84, 52.87, 33.50, 33.30, 24.05, 23.70; 19F NMR (CDCl3) δ −113.49; MS m/z 457 (M+1); Anal. Calcd for C27H29FN6: C, 71.03; H, 6.40; N, 18.41. Found: C, 71.20; H, 6.37; N, 18.52.

reactant | (2E)-1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 8.9 mmol, 3.5 g | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C(\C=C\N(C)C)=O)C2=CC=C(C=C2)F | C23H25FN4O
reactant | N-cyclopentylguanidine hydrochloride | 11.6 mmol, 1.89 g | Cl.C1(CCCC1)NC(=N)N
reactant | potassium tert-butoxide | 23.2 mmol, 2.6 g | CC(C)([O-])C.[K+]
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 0.25 M, 36 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-7-amine | 3.7 g, 91% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C27H29FN6
